US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.321 g, 1.1 mmoles), 4-dimethylaminopyridine (10 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (1.0 mL, 7 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. Isobutyric anhydride (830 μm, 5.0 mmoles, Aldrich Chemical Co., Madison, Wis.) was added and the reaction was stirred at room temperature for 6 hours. The reaction was quenched with methanol and solvents were evaporated in vacuo. The residue was dissolved in acetone and passed over a silica gel column (4.8×13 cm). The product containing fractions were combined, concentrated, and loaded onto preparative silica gel plates (20×20×0.2 cm). The plates were developed in a mixture of chloroform:acetone (80:20). The product was scraped from the preparative plate (Rf 0.5) and eluted from the silica gel with ethanol. After evaporation of the solvent, the product was further purified on a Chromatotron (2 mm silica gel plate) with a mixture of hexane:acetone (80:20). Lyophilization afforded 0.277 g of 6-(cyclopropylmethylamino)-9-((2R,5S)-5-((isobutyroyloxy)methyl)tetrahydro-2-furyl)-9H-purine as an oil (69% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.1 mmoles, 0.321 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 7 mmoles, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | Isobutyric anhydride | 5.0 mmoles | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | 4-dimethylaminopyridine | 0.1 mmoles, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-((2R,5S)-5-((isobutyroyloxy)methyl)tetrahydro-2-furyl)-9H-purine | 0.277 g, 69% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(C(C)C)=O | C18H25N5O3
